US08048902B2
Step 1: 2-Methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester
Prepared as described in Example 18 using 2-(4-bromo-phenyl)-2-methyl-propionic acid ethyl ester and bis(pinacolato)diboron.

reactant | 2-(4-bromo-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)Br)=O | C12H15BrO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-Methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C18H27BO4
